US07432284B2
A solution of 4-bromo-10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone (18 mg, 0.05 mmol) in anhydrous CH2Cl2 (0.5 mL) was cooled in an ice bath, stirred, and treated with 1M BBr3 in CH2Cl2 (0.3 mL, 0.3 mmol). The cooling bath was removed and the mixture was stirred at room temperature for 175 minutes. The mixture was partitioned between EtOAc (20 mL) and water (20 mL) containing 2N HCl (2 mL). The organic phase was washed with brine (20 mL), dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 5% CH3OH in CH2Cl2. The UV visible product band was eluted with 10% CH3OH in CH2Cl2 and the eluant was evaporated under vacuum to provide 4-bromo-10a-butyl-7-hydroxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone as an oil.

reactant | 4-bromo-10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone | 0.05 mmol, 18 mg | BrC=1C(CCC2(CCC3=CC(=CC=C3C12)OC)CCCC)=O | C19H23BrO2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.3 mmol, 0.3 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-10a-butyl-7-hydroxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone | BrC=1C(CCC2(CCC3=CC(=CC=C3C12)O)CCCC)=O | C18H21BrO2
